US06867221B2
Synthesis of 1-(tert-butoxycarbonyl)-4-[N-[4-(trifluoromethoxy)phenyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine
1-(tert-Butoxycarbonyl)-4-[[4-(trifluoromethoxy)phenyl]amino]piperidine (721 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (588 mg) was treated in the same manner as described in Example 9 to give light yellow amorphous of the title compound.

reactant | 1-(tert-Butoxycarbonyl)-4-[[4-(trifluoromethoxy)phenyl]amino]piperidine | 721 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)OC(F)(F)F | C17H23F3N2O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 588 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 1-(tert-butoxycarbonyl)-4-[N-[4-(trifluoromethoxy)phenyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=C(C=C1)OC(F)(F)F | C32H38F3N3O6
